US04786646
A solution of 145 g of [R-(R*,R*)]-alpha-hydroxy-N-[1-methyl-4-(3-pyridinyl)butyl]benzeneacetamide in 900 mL of 6N HCl was treated with 80 mL of conc. HCl and then was heated at reflux for 2 days. After most of the solvent was removed under reduced pressure, the residue was made decidedly basic with 10N NaOH in an argon atmosphere, and extracted with dichloromethane (1×1.2 L; 2×600 mL). The dried (K2CO3) extracts were evaporated and the crude product was distilled to give 78.5 g of (R)-alpha-methyl-3-pyridinebutanamine, (bp 95° C./0.2 mm).

reactant | alpha-hydroxy-N-[1-methyl-4-(3-pyridinyl)butyl]benzeneacetamide | OC(C(=O)NC(CCCC=1C=NC=CC1)C)C1=CC=CC=C1 | C18H22N2O2
solvent | HCl | 6N, 900 mL | Cl | ClH
solvent | HCl | 80 mL | Cl | ClH
product | (R)-alpha-methyl-3-pyridinebutanamine | 78.5 g | C[C@H](CCCC=1C=NC=CC1)N | C10H16N2
